US08232403B2
A suspension of 2-chloroquinoline-3-carbaldehyde (93 mg, 0.49 mmol), ethyl trans-{4-[(N-ethylamino)methyl]cyclohexyl}acetate (165 mg, 0.73 mmol) and potassium carbonate (134 mg, 0.97 mmol) in toluene (2 mL) is stirred and refluxed for 3 days. The reaction mixture is cooled to room temperature, diluted with water and ethyl acetate. The organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude residue is dissolved with ethanol (1.5 mL) and treated with sodium borohydride (18 mg, 0.48 mmol). The mixture is stirred at room temperature for 2 hours. After addition of sat. ammonium chloride and water, the mixture is extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give ethyl trans-[4-({N-ethyl-N-[3-(hydroxymethyl)quinolin-2-yl]amino}methyl)cyclohexyl]acetate.

reactant | 2-chloroquinoline-3-carbaldehyde | 0.49 mmol, 93 mg | ClC1=NC2=CC=CC=C2C=C1C=O | C10H6ClNO
reactant | ethyl trans-{4-[(N-ethylamino)methyl]cyclohexyl}acetate | 0.73 mmol, 165 mg | C(C)NC[C@@H]1CC[C@H](CC1)CC(=O)OCC | C13H25NO2
reactant | potassium carbonate | 0.97 mmol, 134 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 0.48 mmol, 18 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl trans-[4-({N-ethyl-N-[3-(hydroxymethyl)quinolin-2-yl]amino}methyl)cyclohexyl]acetate | C(C)N(C1=NC2=CC=CC=C2C=C1CO)C[C@@H]1CC[C@H](CC1)CC(=O)OCC | C23H32N2O3
